US07662972B2
Step 3: Production of 3-(4-bromo-3-methylphenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole
in a solution of 0.50 g of 3-(4-amino-3-methylphenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole in 1.0 ml of 1,4-dioxane and 2.0 ml of water, 1.0 ml of 47% hydrobromic acid was added, and stirred under reflux with heat for 1 hour. Then, the reaction mixture was cooled with ice, and a solution of 0.10 g of sodium nitrite in 1.0 ml of water was slowly added dropwise with stirring at a temperature of 5° C. or less, after the completion of the addition dropwise, continued to stir at the same temperature for further 1 hour. The diazo mixture was slowly added dropwise in a mixture of 1.0 ml of 47% hydrobromic acid and 0.28 g of copper (I) bromide at 60° C. with stirring, after the completion of the addition dropwise, continued to stir at 60° C. for further 2 hours. After the completion of the reaction, 10 ml of water was added in the reaction mixture, extracted with ethyl acetate (20 ml×2), the organic phases together were washed with water, then dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethyl acetate-hexane (1:10) to obtain 0.43 g of the aimed product as pale yellow crystal.

reactant | 3-(4-amino-3-methylphenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | 0.50 g | NC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C | C17H13Cl2F3N2O
reactant | sodium nitrite | 0.10 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 1.0 ml | Br | BrH
reactant | hydrobromic acid | 1.0 ml | Br | BrH
solvent | 1,4-dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
solvent | water | 2.0 ml | O | H2O
solvent | water | 1.0 ml | O | H2O
solvent | copper (I) bromide | 0.28 g | [Cu]Br
solvent | water | 10 ml | O | H2O
product | 3-(4-bromo-3-methylphenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | 0.43 g | BrC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C | C17H11BrCl2F3NO
